US05817693
d) (1RS,2SR,3SR)-1-(3-Methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indane-2-carboxylic acid
To a solution of ethyl(1RS,2RS,3SR)-1-(3-methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indane-2-carboxylate (43 mg, 0.10 mmol) in EtOH (1 ml) was added 6M KOH (0.10 mL, 0.60 mmol). The resulting mixture was allowed to stir at room temperature overnight, then was partitioned between H2O and Et2O. The aqueous phase was acidified with 3M HCl and extracted several times with EtOAc. The combined EtOAc extracts were washed successively with H2O and saturated aqueous NaCl and dried (MgSO4). The solvent was removed in vacuo to afford an oil, which was crystallized from Et2O/hexanes. The title compound was obtained as a solid; m.p. 131°-133° C.

reactant | ethyl(1RS,2RS,3SR)-1-(3-methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indane-2-carboxylate | 0.10 mmol, 43 mg | COC=1C=C(C=CC1)C1C(C(C2=CC=CC=C12)C1=CC2=C(C=C1)OCO2)C(=O)OCC | C26H24O5
reactant | KOH | 0.60 mmol, 6M, 0.10 mL | [OH-].[K+]
solvent | EtOH | 1 ml | CCO | C2H6O
product | (1RS,2SR,3SR)-1-(3-Methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indane-2-carboxylic acid | COC=1C=C(C=CC1)C1C(C(C2=CC=CC=C12)C1=CC2=C(C=C1)OCO2)C(=O)O | C24H20O5
